US08609883B2
Preparation of tert-amyl peroxypivalate
The reaction is effected in a reactor arrangement of a first reactor of type D with two reactors of type B connected downstream in series. 0.26 kg/l·h of an 88% by weight solution of tert-amyl hydroperoxide in water, 0.47 kg/l·h of a 25% by weight solution of potassium hydroxide in water, 0.50 kg/l·h of a 25% by weight solution of sodium hydroxide in water and 0.26 kg/l·h of pivaloyl chloride are fed to the first reactor. The metering rates are based on the total volume of the reactor arrangement in litres. Cooling with cooling water keeps the internal temperature in the first reactor at 25° C. and in the two downstream reactors at 15° C. The reaction mixture withdrawn from the third reactor is mixed with 0.79 kg/l·h of demineralized water and 0.08 kg/l·h of isododecane, and the organic phase is removed. The organic phase is washed successively with an 8% by weight solution of sodium hydroxide in water, with a solution of 10% by weight of sodium sulphite in water comprising acetic acid and with demineralized, water, and then dried with calcium chloride. 0.42 kg/l·h of a 75% by weight solution of tert-amyl peroxypivalate in isododecane is obtained (80.6% based on pivaloyl chloride).

reactant | tert-amyl hydroperoxide | C(C)(C)(CC)OO | C5H12O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | water | O | H2O
product | tert-amyl peroxypivalate | C(C(C)(C)C)(=O)OOC(C)(C)CC | C10H20O3
